US07795236B2
A mixture of 2′,3′,5′-tris-O-(tert-butyldimethyl-silyl)-8-(3-hydroxybiphenyl-4-ylmethylamino)adenosine (0.175 g), benzyl N-(2-hydroxyethyl)carbamate (0.065 g), triphenylphosphine (0.074 g) in tetrahydrofuran (1.1 mL) was stirred at 50° C. for 30 minutes. Diisopropyl azodicarboxylate (40% toluene solution, 0.143 g) was added dropwise, and the resulting mixture was stirred at 50° C. for 24 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/2 to 1/1) to give 8-[3-(2-benzyloxycarbonylaminoethoxy)biphenyl-4-ylmethyl-amino]-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine (0.146 g). To a solution of 8-[3-(2-benzyloxycarbonyl-aminoethoxy)biphenyl-4-ylmethylamino]-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine (0.143 g) in methanol (1.5 mL) was added ammonium fluoride (0.323 g), and the resulting mixture was stirred at 60° C. for 13.5 hours. The reaction mixture was cooled to room temperature. Dichloromethane (7.5 mL) was added, and the insoluble material was filtered out. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on aminopropylated silica gel (eluent: dichloromethane/methanol=15/1) to give the title compound (0.077 g).

reactant | 2′,3′,5′-tris-O-(tert-butyldimethyl-silyl)-8-(3-hydroxybiphenyl-4-ylmethylamino)adenosine | 0.175 g | C(C)(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C(N)=NC=NC12)NCC1=C(C=C(C=C1)C1=CC=CC=C1)O)(C)C | C41H66N6O5Si3
reactant | benzyl N-(2-hydroxyethyl)carbamate | 0.065 g | OCCNC(OCC1=CC=CC=C1)=O | C10H13NO3
reactant | triphenylphosphine | 0.074 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 0.143 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1.1 mL | O1CCCC1 | C4H8O
product | 8-[3-(2-benzyloxycarbonylaminoethoxy)biphenyl-4-ylmethyl-amino]-2′,3′,5′-tris-O-(tert-butyldimethylsilyl)adenosine | 0.146 g | C(C1=CC=CC=C1)OC(=O)NCCOC=1C=C(C=CC1CNC=1N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C=2N=CN=C(C2N1)N)C1=CC=CC=C1 | C51H77N7O7Si3
